data/polar.json
{"reaction_name": "σ-Adduct formation on a neutral electron-poor arene / heteroarene", "rsmi": "[C:1]1(=[O:13])[CH:29]=[CH:22][C:26](=[N+:33]([O-:24])[O-:25])[CH:23]=[CH:30]1.[O:2]=[S:34](=[O:3])([c:15]1[cH:5][cH:10][c:19]([CH3:35])[cH:11][cH:6]1)[n:20]1[cH:14][c:17]([N+:16](=[O:7])[O-:8])[c:18]2[cH:9][cH:27][c:12]([N+:32](=[O:28])[O-:31])[cH:4][c:21]21>>[c:1]1([O:13][CH:14]2[C:17](=[N+:16]([O-:7])[O-:8])[c:18]3[cH:9][cH:27][c:12]([N+:32](=[O:28])[O-:31])[cH:4][c:21]3[N:20]2[S:34](=[O:2])(=[O:3])[c:15]2[cH:5][cH:10][c:19]([CH3:35])[cH:11][cH:6]2)[cH:29][cH:22][c:26]([N+:33](=[O:24])[O-:25])[cH:23][cH:30]1", "epd": [["LP-/Pi+", [24], [33, 24]], ["Pi-/Pi+", [26, 33], [22, 26]], ["Pi-/Pi+", [29, 22], [1, 29]], ["Pi-/Sigma+", [13, 1], [13, 14]], ["Pi-/Pi+", [14, 17], [17, 16]], ["Pi-/LP+", [16, 7], [7]]]}
{"reaction_name": "Selectfluor fluorination", "rsmi": "[CH2:3]([N+:7]12[CH2:13][CH2:17][N+:12]([F:6])([CH2:18][CH2:14]1)[CH2:19][CH2:15]2)[Cl:20].[O-:1][C:16](=[CH:2][c:8]1[cH:10][cH:4][cH:22][cH:5][cH:11]1)[O:21][CH2:23][CH3:9]>>[CH2:3]([N+:7]12[CH2:13][CH2:17][N:12]([CH2:18][CH2:14]1)[CH2:19][CH2:15]2)[Cl:20].[O:1]=[C:16]([CH:2]([F:6])[c:8]1[cH:10][cH:4][cH:22][cH:5][cH:11]1)[O:21][CH2:23][CH3:9]", "epd": [["LP-/Pi+", [1], [16, 1]], ["Pi-/Sigma+", [2, 16], [2, 6]], ["Sigma-/LP+", [6, 12], [12]]]}
{"reaction_name": "Grignard addition to nitriles", "rsmi": "[CH3:1][Mg:3][Br:6].[N:2]#[C:4][CH3:5]>>[Br-:6].[CH3:1][C:4](=[N-:2])[CH3:5].[Mg+2:3]", "epd": [["Sigma-/Sigma+", [1, 3], [1, 4]], ["Pi-/LP+", [2, 4], [2]], ["Sigma-/LP+", [3, 6], [6]]]}
{"reaction_name": "Azo-dicarboxylate alcohol activation", "rsmi": "[CH3:10][CH2:20][O:11][H:15].[CH3:1][P:14]([CH3:2])[CH3:3].[O:4]([CH2:6][CH3:12])[C:18]([N:8]=[N:9][C:19]([O:5][CH2:7][CH3:13])=[O:17])=[O:16]>>[CH3:1][P+:14]([CH3:2])([CH3:3])[O:11][CH2:20][CH3:10].[O:4]([CH2:6][CH3:12])[C:18]([N:8]([N-:9][C:19]([O:5][CH2:7][CH3:13])=[O:17])[H:15])=[O:16]", "epd": [["Pi-/LP+", [8, 9], [9]], ["Sigma-/Sigma+", [11, 15], [8, 15]], ["LP-/Sigma+", [14], [11, 14]]]}
{"reaction_name": "Selectfluor fluorination", "rsmi": "[CH2:1]([N+:6]12[CH2:19][CH2:31][N+:18]([F:5])([CH2:32][CH2:20]1)[CH2:33][CH2:21]2)[Cl:34].[cH:2]1[cH:16][cH:26][c:36]([N:22]2[C:4](=[C:23]([c:3]3[cH:10][cH:37][cH:7][cH:38][cH:11]3)[O:8][CH3:39])[N:9]([c:43]3[cH:14][cH:29][cH:25][cH:30][cH:15]3)[N:40]=[C:28]2[c:24]2[cH:41][cH:12][cH:35][cH:13][cH:42]2)[cH:27][cH:17]1>>[CH2:1]([N+:6]12[CH2:19][CH2:31][N:18]([CH2:32][CH2:20]1)[CH2:33][CH2:21]2)[Cl:34].[cH:2]1[cH:16][cH:26][c:36](-[n:22]2[c:4]([C:23]([c:3]3[cH:10][cH:37][cH:7][cH:38][cH:11]3)([F:5])[O:8][CH3:39])[n+:9](-[c:43]3[cH:14][cH:29][cH:25][cH:30][cH:15]3)[n:40][c:28]2-[c:24]2[cH:41][cH:12][cH:35][cH:13][cH:42]2)[cH:27][cH:17]1", "epd": [["LP-/Pi+", [9], [4, 9]], ["Pi-/Sigma+", [23, 4], [23, 5]], ["Sigma-/LP+", [5, 18], [18]]]}
{"reaction_name": "Nucleophilic addition to an oxocarbenium C=O+ center", "rsmi": "[CH:1](=[C:5]([O:3][Si:15]([CH3:6])([CH3:7])[CH3:8])[CH2:13][CH3:14])[CH3:18].[CH:2](=[O+:17][CH3:16])[c:19]1[cH:11][cH:9][cH:4][cH:10][cH:12]1>>[CH3:6][Si+:15]([CH3:7])[CH3:8].[CH:1]([CH:2]([O:17][CH3:16])[c:19]1[cH:11][cH:9][cH:4][cH:10][cH:12]1)([C:5](=[O:3])[CH2:13][CH3:14])[CH3:18]", "epd": [["Sigma-/Pi+", [3, 15], [5, 3]], ["Pi-/Sigma+", [1, 5], [1, 2]], ["Pi-/LP+", [2, 17], [17]]]}
{"reaction_name": "σ-Adduct formation on a neutral electron-poor arene / heteroarene", "rsmi": "[N:1]1([c:23]2[cH:35][cH:4][n:41][cH:5][cH:36]2)[CH2:19][CH2:39][CH2:6][CH:20]1[C:32]([c:26]1[cH:8][cH:14][cH:21][cH:15][cH:9]1)([c:27]1[cH:10][cH:16][cH:22][cH:17][cH:11]1)[F:38].[O-:2][n+:13]1[o:37][n:29][c:18]2[c:25]3[n+:12]([O-:30])[o:3][n:33][c:28]3[c:31]([N+:7]([O-:34])=[O:40])[cH:24][c:42]12>>[N+:1]1(=[c:23]2[cH:35][cH:4][n:41]([CH:24]3[C:31](=[N+:7]([O-:34])[O-:40])[c:28]4[c:25]([n+:12]([O-:30])[o:3][n:33]4)-[c:18]4[n:29][o:37][n+:13]([O-:2])[c:42]43)[cH:5][cH:36]2)[CH2:19][CH2:39][CH2:6][CH:20]1[C:32]([c:26]1[cH:8][cH:14][cH:21][cH:15][cH:9]1)([c:27]1[cH:10][cH:16][cH:22][cH:17][cH:11]1)[F:38]", "epd": [["LP-/Pi+", [1], [1, 23]], ["Pi-/Pi+", [23, 36], [5, 36]], ["Pi-/LP+", [7, 40], [40]], ["Pi-/Sigma+", [5, 41], [24, 41]], ["Pi-/Pi+", [24, 31], [7, 31]]]}
{"reaction_name": "Phosphate ester substitution", "rsmi": "[CH3:1][O:7][P:9](=[O:3])([Cl:5])[O:8][CH3:2].[O-:4][CH3:6]>>[CH3:1][O:7][P:9](=[O:3])([O:4][CH3:6])[O:8][CH3:2].[Cl-:5]", "epd": [["LP-/Sigma+", [4], [4, 9]], ["Pi-/LP+", [3, 9], [3]], ["LP-/Pi+", [3], [3, 9]], ["Sigma-/LP+", [5, 9], [5]]]}
